US06353017B1
E. N-{1-[(Cyano-dimethyl-methyl)-carbamoyl]-3-methyl-butyl}-4-imidazol-1-ylmethyl-benzamide
N-{1-[(Cyano-dimethyl-methyl)-carbamoyl]-3-methyl-butyl}-4-bromomethyl-benzamide (0.18 mmol) is dissolved in THF (1 ml) and sodium-imidazol (0.41 mmol) is added and the reaction mixture stirred at RT over night. After evaporation of the solvent, the residue is extracted with ethyl acetate. The extract is washed with water, dried over magnesium sulfate and evaporated. An oil with Rf=0.44 (CH2Cl2/MeOH=9:1) is obtained.

reactant | N-{1-[(Cyano-dimethyl-methyl)-carbamoyl]-3-methyl-butyl}-4-bromomethyl-benzamide | 0.18 mmol | C(#N)C(C)(C)NC(=O)C(CC(C)C)NC(C1=CC=C(C=C1)CBr)=O | C18H24BrN3O2
reactant | sodium-imidazol | 0.41 mmol | N1C=NC=C1.[Na]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
product | N-{1-[(Cyano-dimethyl-methyl)-carbamoyl]-3-methyl-butyl}-4-imidazol-1-ylmethyl-benzamide | C(#N)C(C)(C)NC(=O)C(CC(C)C)NC(C1=CC=C(C=C1)CN1C=NC=C1)=O | C21H27N5O2
